US07981903B2
To a solution of 2,4-difluoro-6-({2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide (1.5 g, 2.17 mmols) in 1,4-dioxane (100 ml) and 2-propanol (2 ml) was added 1.0M potassium hydroxide (21 ml, 21.7 mmol) and the reaction was heated at 80C overnight. The resulting solution was diluted with ethyl acetate, washed with water, adsorbed onto silica gel and purified by LC (DCM to 10% MeOH/DCM) to afford 2,4-difluoro-6-[(2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide (1.0 g, 86%). ESIMS (M+H)+=537. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.00 (d, J=6.60 Hz, 6H) 2.54-2.60 (m, 4H) 2.64-2.72 (m, 1H) 3.05-3.11(m, 4H) 3.78 (s, 3H) 6.18 (dd, J=3.48, 2.02 Hz, 1H) 6.45 (dd, J=8.62, 2.38 Hz, 1H) 6.61 (d, J=2.57 Hz, 1H) 6.86-6.92 (m, 1H) 6.96 (dd, J=3.67, 2.20 Hz, 1H) 7.59 (s, 1H) 7.68 (d, J=8.80 Hz, 1H) 8.01 (br. s., 1H) 8.16 (s, 1H) 8.53-8.59 (m, 1H) 11.08 (s, 1H) 11.32 (s, 1H).

reactant | 2,4-difluoro-6-({2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide | 2.17 mmols, 1.5 g | FC1=C(C(=O)N)C(=CC(=C1)F)NC=1C2=C(N=C(N1)NC1=C(C=C(C=C1)N1CCN(CC1)C(C)C)OC)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C34H36F2N8O4S
reactant | potassium hydroxide | 21.7 mmol, 1.0M, 21 ml | [OH-].[K+]
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | 2-propanol | 2 ml | CC(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,4-difluoro-6-[(2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | 1.0 g, 86% | FC1=C(C(=O)N)C(=CC(=C1)F)NC1=C2C(NC(=N1)NC1=C(C=C(C=C1)N1CCN(CC1)C(C)C)OC)=NC=C2 | C27H30F2N8O2
